US03965100
2,3-Dihydro-5,6-dimethylcyclopenta[d]pyrido[1,2-a]pyrimidin-10(1H)-one
A solution of 24.4 g. of 2-amino-3,4-dimethylpyridine, 62.4 g. of methyl cyclopentanone-2-carboxylate and 250 ml of ethylene glycol monomethyl ether is stirred and heated under reflux for 40 hours. Workup as in Example 3 gives 28.3 g. of the named product as colorless plates after recrystallization from cyclohexane.

reactant | 2-amino-3,4-dimethylpyridine | NC1=NC=CC(=C1C)C | C7H10N2
reactant | methyl cyclopentanone-2-carboxylate | COC(=O)C1CCCC1=O | C7H10O3
solvent | ethylene glycol monomethyl ether | 250 ml | COCCO | C3H8O2
product | 2,3-Dihydro-5,6-dimethylcyclopenta[d]pyrido[1,2-a]pyrimidin-10(1H)-one | CC1=C(C=CN2C1=NC1=C(C2=O)CCC1)C | C13H14N2O
